US08748613B2
(R)-Quinuclidin-3-yl 2-(4-acetylpiperazin-1-yl)-2-phenylacetate (210 mg, 0.56 mmol) was dissolved in a mixture EtOAc (3.8 ml) and acetonitrile (1.8 ml). 2-Chloro-1-phenylethanone (96 mg, 0.62 mmol) was added and the reaction was stirred at room temperature for 16 hours. The solvent was evaporated and the crude was purified by flash chromatography (DCM/MeOH=9/1) to obtain (3R)-3-(2-(4-acetylpiperazin-1-yl)-2-phenylacetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride (178 mg, 59.9% yield) as an off-white spongy solid.

reactant | (R)-Quinuclidin-3-yl 2-(4-acetylpiperazin-1-yl)-2-phenylacetate | 0.56 mmol, 210 mg | C(C)(=O)N1CCN(CC1)C(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C21H29N3O3
reactant | 2-Chloro-1-phenylethanone | 0.62 mmol, 96 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
solvent | EtOAc | 3.8 ml | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 1.8 ml | C(C)#N | C2H3N
product | (3R)-3-(2-(4-acetylpiperazin-1-yl)-2-phenylacetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride | 178 mg, 59.9% yield | [Cl-].C(C)(=O)N1CCN(CC1)C(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CC=CC=C2)=O)C2=CC=CC=C2 | InChI=1S/C29H36N3O4.ClH/c1-22(33)30-14-16-31(17-15-30)28(25-10-6-3-7-11-25)29(35)36-27-21-32(18-12-24(27)13-19-32)20-26(34)23-8-4-2-5-9-23;/h2-11,24,27-28H,12-21H2,1H3;1H/q+1;/p-1/t24?,27-,28?,32?;/m0./s1
